US04379819
4-Methylmercapto-nitrobenzene
28.3 g of methylmercaptan are dissolved in 500 ml of dimethylformamide at 0° C., under nitrogen. 37.4 g of potassium hydroxide, dissolved in 150 ml of ethanol, are then added dropwise at -10° C., after which 94.5 g of 4-chloronitrobenzene are added. The reaction mixture is warmed to 100° C. and stirred at this temperature for 8 hours. It is then stirred into 5 kg of ice water. The precipitate is filtered off with suction, washed, dried and recrystallised from methanol. Yield: 86.2 g of yellow crystals of melting point 71°-73.5° C.

reactant | methylmercaptan | 28.3 g | CS | CH4S
reactant | potassium hydroxide | 37.4 g | [OH-].[K+]
reactant | 4-chloronitrobenzene | 94.5 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-Methylmercapto-nitrobenzene | CSC1=CC=C(C=C1)[N+](=O)[O-] | C7H7NO2S
